Name:  ___         Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
___ Cardiac catheterization
___ Transesophageal Echocardiogram
___ Cardioversion

 
History of Present Illness:
___ y/o M w PMH CAD s/p PCI with stent (___), CABGx4 (___), 
chronic CHF, HLD, HTN, T2DM, benign bladder tumor, prostate CA 
s/p TURP and radiation, presented to ___ with 
tachycardia and midsternal CP, "pressure and burning" x1 day, 
was tachycardic to high 120s despite Metoprolol 5mg IV x3, went 
to Cath lab (concern for STEMI), cath c/b difficulty crossing 
the Cx, no culprit lesion identified, transferred to ___ for 
further monitoring and in case of high risk PCI, AiBP. 

During the cath with Dr. ___, attempts at crossing the Cx with 
ChoICE ___ XS and Pilot 50 wires were made. It was determined 
that intervention on the ostial Cx and LMCA would be required, 
which would be of significant risk at ___. Pt was 
bolused with 2000u Heparin and loaded with Ticagrelor 180 mg. R 
femoral artery approach, angiosealed. Of note, pt had 
tachyarrhythmia read as Afib, during cath was Amio bolused, 
started on drip, and converted to sinus rhythm during the 
procedure but was maintained on the drip until arrival at ___.

EKG: HR 124, Aflutter/AT, STE III, aVR, V1; STD I, aVL, V2-6.
Labs/studies notable for: Troponin I 0.79 (ref range 
0.00-0.029), BUN 26, Cr 1.5, H/H 12.5/39.5
Patient was given: Amiodarone 150 and started on gtt, Ticagrelor 
180

On arrival to the CCU:  Comfortable, CP-free, no difficulty 
breathing. Pt states he recently stopped using a walker, which 
he had been using for a year, had increased physical activity in 
the past week, came back from a walk on afternoon prior to 
presentation, felt tired, tried to nap, couldn't get 
comfortable, felt chest discomfort. Took BP 3x, which was 
elevated (over baseline of 110s-120s) to 140s, HR was 
persistently in 120s, so he called EMS. Had been told at prior 
appointment with cardiology NP that he might have an irregular 
rhythm on exam but no EKG was done. Had a pre-op EKG done in the 
past week, was not told it was abnormal.    

 
Past Medical History:
1. CARDIAC RISK FACTORS
- Diabetes Type 2
- Hypertension
- Dyslipidemia
2. CARDIAC HISTORY
- chronic CHF, unknown status
- CAD with 2 prior MI in same territory s/p PCI in ___, CAD s/p 
CABGx4 ___
3. OTHER PAST MEDICAL HISTORY
- Obstructive sleep apnea
- Shoulder bone spurs
- C4/C5 anterior cervical discectomy & fusion 
- Prostate CA
 
Social History:
___
Family History:
His father died at age of ___ of unknown reason, probably 
cardiac-related problems. Mother died at the age of ___. She had 
her first heart attack at the age of ___. She probably had a 
cancer. His sister had coronary artery disease since her mid 
___.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VS: T 97.0 BP 140/81 HR 66 RR 12 O2 SAT 96% 2LNC
GENERAL: Well developed, well nourished in NAD. Oriented x3. 
Mood, affect appropriate.
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI. 
Conjunctiva pink. No pallor or cyanosis of the oral mucosa. No 
xanthelasma. Cheeks rubicund.
NECK: Supple. JVP of 8 cm.
CARDIAC: Regular rate and rhythm. Normal S1, S2. No murmurs, 
rubs, or gallops. 
LUNGS: No chest wall deformities or tenderness. Respiration is 
unlabored with no accessory muscle use. No crackles, wheezes or 
rhonchi.
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No 
splenomegaly.
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis. Trace 
peripheral edema ___ b/l. R groin site non-tender, dressing 
c/d/I, no bruit.
SKIN: No significant skin lesions or rashes.
PULSES: Distal pulses palpable and symmetric.

DISCHARGE PHYSICAL EXAM:
Weight: 98 kg
GENERAL: Well developed, well nourished in NAD. Oriented x3. 
Mood, affect appropriate.
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI. 
Conjunctiva pink. No pallor or cyanosis of the oral mucosa. No 
xanthelasma. Cheeks rubicund.
NECK: Supple. JVP of 5 cm.
CARDIAC: Regular rate and rhythm. Normal S1, S2. No murmurs, 
rubs, or gallops. 
LUNGS: No chest wall deformities or tenderness. Respiration is 
unlabored with no accessory muscle use. No crackles, wheezes or 
rhonchi.
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No 
splenomegaly.
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis. Trace 
peripheral edema ___ b/l. R groin site non-tender, dressing 
c/d/I, no bruit.
SKIN: No significant skin lesions or rashes.
PULSES: Distal pulses palpable and symmetric.
 
Pertinent Results:
ADMISSION LABS: 
___ 12:22AM BLOOD WBC-7.2 RBC-4.34* Hgb-11.6* Hct-37.4* 
MCV-86 MCH-26.7 MCHC-31.0* RDW-13.5 RDWSD-42.5 Plt ___
___ 12:22AM BLOOD Neuts-77.9* Lymphs-12.4* Monos-7.8 
Eos-1.1 Baso-0.4 Im ___ AbsNeut-5.60 AbsLymp-0.89* 
AbsMono-0.56 AbsEos-0.08 AbsBaso-0.03
___ 12:22AM BLOOD ___ PTT-42.7* ___
___ 12:22AM BLOOD Glucose-113* UreaN-28* Creat-1.5* Na-141 
K-4.4 Cl-106 HCO3-25 AnGap-14
___ 12:22AM BLOOD ALT-22 AST-52* LD(LDH)-246 CK(CPK)-567* 
AlkPhos-102 TotBili-0.3
___ 12:22AM BLOOD CK-MB-53* MB Indx-9.3* cTropnT-0.84*
___ 12:22AM BLOOD Calcium-8.6 Phos-3.8 Mg-1.7
___ 01:01AM BLOOD Lactate-1.4

PERTINENT RESULTS:
___ 05:59AM BLOOD CK-MB-89* cTropnT-2.10*
___ 11:20AM BLOOD CK-MB-82* cTropnT-2.84*
___ 05:49PM BLOOD CK-MB-55* MB Indx-8.2*

DISCHARGE LABS:
___ 07:10AM BLOOD WBC-7.8 RBC-4.72 Hgb-12.8* Hct-41.4 
MCV-88 MCH-27.1 MCHC-30.9* RDW-14.2 RDWSD-45.0 Plt ___
___ 07:10AM BLOOD ___ PTT-122.4* ___
___ 07:10AM BLOOD Glucose-111* UreaN-25* Creat-1.4* Na-140 
K-4.0 Cl-104 HCO3-24 AnGap-16
___ 07:10AM BLOOD Calcium-8.8 Phos-3.7 Mg-1.7

MICROBIOLOGY:
None

IMAGING/PROCEDURES:
ECHO ___: The left atrium is mildly dilated. No left atrial 
mass/thrombus seen (best excluded by transesophageal 
echocardiography). No atrial septal defect is seen by 2D or 
color Doppler. There is mild symmetric left ventricular 
hypertrophy with normal cavity size. There is mild to moderate 
regional left ventricular systolic dysfunction with near 
akinesis of the basal ___ of the inferior and inferolateral 
walls. The remaining segments contract normally (LVEF = 35-40 
%). There is no ventricular septal defect. Right ventricular 
chamber size and free wall motion are normal. The aortic valve 
leaflets (?#) appear structurally normal with good leaflet 
excursion. There is no aortic valve stenosis. No aortic 
regurgitation is seen. The mitral valve leaflets are mildly 
thickened. Mild (1+) mitral regurgitation is seen.The pulmonary 
artery systolic pressure could not be determined. There is a 
trivial/physiologic pericardial effusion. 

IMPRESSION: Suboptimal image quality. Mild symmetric left 
ventricular hypertrophy with regional systolic dysfunction most 
c/w CAD (PDA distribution). Mild mitral regurgitation.
 
Brief Hospital Course:
___ y/o M with PMH of CAD s/p PCI with stent (___), CABGx4 
(___), chronic CHF, HLD, HTN, T2DM, benign bladder tumor, 
prostate CA s/p TURP and radiation, presenting to ___ with 
tachyarrhythmia, likely Aflutter vs AT, and CP, cath with no 
intervention, transferred to ___ for potential high-risk PCI.

# ACS/STEMI, diffuse disease, culprit lesion likely LCx, 80% 
stenosis of LMCA into bypassed LAD, LAD heavily diseased and 
occluded after a large bifurcating D1 in the proximal portion, 
RCA graft occluded. No definitive culprit lesion identified, EKG 
with STE in aVR and V1 with STD in II and III, possibly 
representative of global ischemia, could be demand ischemia with 
mild bump in Troponin I to 0.79 at OSH, MB unknown. He was given 
Aspirin 81mg daily, Atorvastatin 80mg daily, and Ticagrelor 90mg 
twice daily after loading with 180mg. His cardiac enzymes were 
trended, CKMB peaked at 89 and Trop-T peaked at 2.84. He was 
started on a heparin drip for anticoagulation. He was also 
started on metoprolol, which was up-titrated as his blood 
pressure tolerated. Lisinopril was started when his creatinine 
returned to baseline. He was initially made NPO for possible 
cardiac cath, but given that it would be a high risk PCI, this 
was deferred until the outpatient setting, likely after his 
a-flutter had been properly rhythm controlled. His Ticagrelor 
was switched to Plavix given his need for anticoagulation (see 
below). An Echo was obtained to assess for focal wall motion 
abnormalities (see results above).

# New Afib reported, however review of records suggests more 
likely Aflutter vs ATach, likely causing demand ischemia leading 
to chest discomfort and EKG changes in light of the cath which 
showed no active thrombus. He was initially anticoagulated with 
heparin, then bridged to warfarin. He underwent TEE and 
cardioversion on ___ with return to sinus rhythm. He was 
subsequently loaded with Amiodarone. He was noted to return to A 
flutter on ___. Metoprolol was initiated for rate control and 
he was discharged on therapeutic anticoagulation with 
instructions to follow up as an outpatient for possible repeat 
DCCV.

# ___ with unknown baseline. His creatinine was monitored 
closely while he recovered from his initial cardiac insult. His 
Cr returned to apparent baseline of 1.4 prior to discharge.

# Laryngeal Squamous Cell Carcinoma. Pt recently underwent 
biopsy of throat; biopsy returned during this admission positive 
for cancer. Dr. ___ ENT) communicated this to pt 
via cell phone. Per ___ records: pathology - left true vocal cord 
with SCC, keratinizing. Focal reactivity for p16. Plan for CT 
neck at ___ per surgery notes once d/c from hospital.

CHRONIC ISSUES
=================
# chronic CHF, unknown status, not currently on home diuretic 
but weighs himself daily. He did not require diuresis during 
admission.

# CAD s/p PCI and CABGx4, with po LMCA had 80% stenosis into the 
bypassed LAD. He was continued on home Asa 81, Rosuvastatin 
[Crestor] 40 mg PO QPM, and Lisinopril [Zestril Tab] 2.5 mg, 
titrated up to 10mg at time of discharge.

# Anemia, likely from chronic disease, h/o hematuria. He was 
continued on iron supplementation and discharged home with 
stable H&H.

TRANSITIONAL ISSUES:
-Patient discharged on Amiodarone and Metoprolol for rhythm and 
rate control of Atrial Fibrillation
-Patient discharged on Coumadin 5mg PO daily for stroke 
prophylaxis in setting of afib. Discharge INR was 2.3. Goal ___.
-For ACS, CAD, patient was discharged on dual anti-platelet 
therapy with aspirin 81mg PO daily and clopidegrel 75 mg PO 
daily
-While inpatient, Mr. ___ recent throat biopsy 
results returned positive for squamous cell carcinoma of vocal 
cords. He will follow up with his outpatient ENT at the ___ for 
this matter.
-Discharge weight: 97.2 kg

#CODE STATUS: FULL CODE
#CONTACT: ___ (wife) ___, ___ (daughter) 
___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. bisoprolol fumarate 2.5  oral QAM 
3. Cyanocobalamin 1000 mcg PO DAILY 
4. Ferrous Sulfate 325 mg PO TID 
5. Fluticasone Propionate NASAL 2 SPRY NU DAILY 
6. Lisinopril 10 mg PO QHS 
7. Magnesium Oxide 400 mg PO BID 
8. rOPINIRole 0.25 mg PO QPM 
9. Rosuvastatin Calcium 40 mg PO QPM 

 
Discharge Medications:
1.  Amiodarone 200 mg PO BID 
RX *amiodarone 200 mg 1 tablet(s) by mouth twice a day Disp #*14 
Tablet Refills:*0 
2.  Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth once a day Disp #*7 
Tablet Refills:*0 
3.  Metoprolol Succinate XL 100 mg PO DAILY 
RX *metoprolol succinate 100 mg 1 tablet(s) by mouth once a day 
Disp #*7 Tablet Refills:*0 
4.  Warfarin 5 mg PO DAILY16 
RX *warfarin [Coumadin] 5 mg 1 tablet(s) by mouth once a day 
Disp #*7 Tablet Refills:*0 
5.  Aspirin 81 mg PO DAILY  
6.  Cyanocobalamin 1000 mcg PO DAILY  
7.  Ferrous Sulfate 325 mg PO TID  
8.  Fluticasone Propionate NASAL 2 SPRY NU DAILY  
9.  Lisinopril 10 mg PO QHS  
10.  Magnesium Oxide 400 mg PO BID  
11.  rOPINIRole 0.25 mg PO QPM  
12.  Rosuvastatin Calcium 40 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS/ES:
-Acute Coronary Syndrome
-Atrial fibrillation with rapid ventricular response
-Acute Systolic Congestive Heart Failure Exacerbation
-Acute Kidney Injury

SECONDARY DIAGNOSIS/ES:
-Vocal Cord Squamous Cell Carcinoma
-Coronary Artery Disease
-Anemia
-Hypertension
-Hyperlipidemia
-Type 2 Diabetes Mellitus
-Obstructive Sleep Apnea
-History of Bladder Tumor

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___,

You came to ___ from another hospital. There, you were having 
chest pain and underwent a cardiac catheterization. You were 
found to have blockages that were difficult to fix and 
transferred to ___ for further care.

Here, you were noticed to have very fast and irregular heart 
rates (Atrial Fibrillation). For the fast heart rate, we 
attempted to shock (cardiovert) your heart into a normal rhythm. 
Your heart went back to an irregular rhythm, so we treated you 
with medications to slow the heart rate down.

The fast and irregular heart rate also made fluid back up in 
your lungs, called heart failure. You received medications to 
help you get back into balance.

The irregular heart rate (atrial fibrillation) puts you at risk 
for developing blood clots and having a stroke. To reduce this 
risk, we treated you with a medication called Coumadin (generic: 
warfarin). This medication increases your risk of bleeding. You 
need to have regular blood draws to check your clotting levels 
while we get to a stable Coumadin dose. You can have these labs 
checked by the ___.

You should follow-up with your ___ doctors about the ___ 
results and treatment. Please also follow up with Dr. ___ 
(___) in 1 month for a repeat cardiac catheterization and 
possible cardioversion.

All of your conditions are stable and you are safe to go home, 
with follow-up at the ___.

We wish you the best!
Your ___ Team
 
Followup Instructions:
___